datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(C)(C(=O)O)[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(C)(C(=O)O)[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC[N+:21](CCO)(c1ccc(N)cc1)[H:20].O=C(c1ccccc1O)[O-:10]>>CC[N:21](CCO)c1ccc(N)cc1.O=C(c1ccccc1O)[O:10][H:20] 10=20;20,21=21",
"CCC[NH+:21](CC(=O)[O-])[H:20].Cc1ccccc1/[N:10]=C\N(C)C>>CCC[NH:21]CC(=O)[O-].Cc1ccccc1/[N+:10](=C\N(C)C)[H:20] 10=20;20,21=21",
"COC1=CC=C([O-:10])C(=O)C=C1.c1ccc(N[O:21][H:20])cc1>>COC1=CC=C([O:10][H:20])C(=O)C=C1.c1ccc(N[O-:21])cc1 10=20;20,21=21",
"CC[NH+](CC)Cc1cccc(F)c1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC[NH+](CC)Cc1cccc(F)c1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[NH+]1C[C@@H](C(=O)[O-:10])C[C@@]2(O)c3cccc4[nH]cc(c34)C[C@H]12.[NH3+]c1ccc(-c2c[n+:21]([H:20])c(-c3ccc(Br)cc3)o2)cc1>>C[NH+]1C[C@@H](C(=O)[O:10][H:20])C[C@@]2(O)c3cccc4[nH]cc(c34)C[C@H]12.[NH3+]c1ccc(-c2c[n:21]c(-c3ccc(Br)cc3)o2)cc1 10=20;20,21=21",
"C1=C(c2nc3ccccc3s2)C2CC[N:10]1CC2.CCOC(=O)c1c[n+:21]([H:20])c(N(C)C)s1>>C1=C(c2nc3ccccc3s2)C2CC[N+:10]1([H:20])CC2.CCOC(=O)c1c[n:21]c(N(C)C)s1 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.[NH3+][C@H]1C[C@@H]2CCCC[C@H]2C[C@@H]1[NH2:10]>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.[NH3+][C@H]1C[C@@H]2CCCC[C@H]2C[C@@H]1[NH2+:10][H:20] 10=20;20,21=21",
"Cc1[nH]c2c([n:10]1)NC(=O)NC2=O.O=C1O[C@@H]([C@H](O)CO)C([O:21][H:20])=C1O>>Cc1[nH]c2c([n+:10]1[H:20])NC(=O)NC2=O.O=C1O[C@@H]([C@H](O)CO)C([O-:21])=C1O 10=20;20,21=21",
"CC[NH+](CC)CCCC(C)Nc1cc[n+:21]([H:20])c2ccccc12.O=[N+]([O-])c1ccc([Se](=O)[O-:10])cc1>>CC[NH+](CC)CCCC(C)Nc1cc[n:21]c2ccccc12.O=[N+]([O-])c1ccc([Se](=O)[O:10][H:20])cc1 10=20;20,21=21",
"COC(=O)C[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>COC(=O)C[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"C[NH+](c1ccccc1)C([O-])[O:21][H:20].O=C(N[NH2:10])c1ccncc1>>C[NH+](c1ccccc1)C([O-])[O-:21].O=C(N[NH2+:10][H:20])c1ccncc1 10=20;20,21=21",
"CSc1cc2ccccc2[n+:21]([H:20])c1.C[N:10]1[C@H]2CC=C(C(=O)[O-])[C@@H]1CC2>>CSc1cc2ccccc2[n:21]c1.C[N+:10]1([H:20])[C@H]2CC=C(C(=O)[O-])[C@@H]1CC2 10=20;20,21=21",
"C=CC(CC(C)(C)CC(C)(C)C)c1ccc2ccc[n+:21]([H:20])c2c1O.OC[C@@H]1O[C@H](n2nc3cccc([NH2:10])c3n2)C[C@H]1O>>C=CC(CC(C)(C)CC(C)(C)C)c1ccc2ccc[n:21]c2c1O.OC[C@@H]1O[C@H](n2nc3cccc([NH2+:10][H:20])c3n2)C[C@H]1O 10=20;20,21=21",
"OCc1ccccc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>OCc1ccccc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Cc1n(C)cc[n:10]1.Fc1cccc2c1Cc1cc([NH2+:21][H:20])ccc1-2>>Cc1n(C)cc[n+:10]1[H:20].Fc1cccc2c1Cc1cc([NH2:21])ccc1-2 10=20;20,21=21",
"CN(C)CCCN(C)CCC[N:10](C)C.O=P([O-])(c1cn2c([nH+]1)[C@@H](O)[C@H](O)[C@@H](O)[C@@H]2CO)[O:21][H:20]>>CN(C)CCCN(C)CCC[N+:10](C)(C)[H:20].O=P([O-])(c1cn2c([nH+]1)[C@@H](O)[C@H](O)[C@@H](O)[C@@H]2CO)[O-:21] 10=20;20,21=21",
"C[NH+:21](CCCN)[H:20].Cc1ccc(O)c([O-:10])c1>>C[NH:21]CCCN.Cc1ccc(O)c([O:10][H:20])c1 10=20;20,21=21",
"CCCNC(=O)C(Cc1c[nH]c[n+:21]1[H:20])NC(=O)c1cccc(CNCC[NH3+])n1.O=C([O-])CC(C(=O)[O-])[NH2:10]>>CCCNC(=O)C(Cc1c[nH]c[n:21]1)NC(=O)c1cccc(CNCC[NH3+])n1.O=C([O-])CC(C(=O)[O-])[NH2+:10][H:20] 10=20;20,21=21",
"CC(C#N)CC(=O)[O:21][H:20].CC(C)Oc1ccc(C(=O)[O-:10])cc1>>CC(C#N)CC(=O)[O-:21].CC(C)Oc1ccc(C(=O)[O:10][H:20])cc1 10=20;20,21=21",
"CC(O)[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC=C(Cl)C([N+](=O)[O-])=C2)[H:20])C=C1>>CC(O)[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=C(Cl)C([N+](=O)[O-])=C2)C=C1 10=20;20,21=21",
"C[C@]1(N)C[C@]1(C)[NH2:10].O=C(c1ccc(I)cc1)[O:21][H:20]>>C[C@]1(N)C[C@]1(C)[NH2+:10][H:20].O=C(c1ccc(I)cc1)[O-:21] 10=20;20,21=21",
"Oc1ccc([O:21][H:20])c2ccccc12.Oc1ccc2cc[n:10]cc2c1>>Oc1ccc([O-:21])c2ccccc12.Oc1ccc2cc[n+:10]([H:20])cc2c1 10=20;20,21=21",
"[H:20][NH2+:21]CC(=O)N.C[N+]1=CC=C(C=C1)[CH-:10]S(=O)(=O)C2=CC=CC=C2>>[H:20][CH:10](C1=CC=[N+](C=C1)C)S(=O)(=O)C2=CC=CC=C2.C(C(=O)N)[NH2:21] 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1ccc(C(Nc2nc3ccccc3s2)c2ccc3cccnc3c2[O-:10])nc1>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1ccc(C(Nc2nc3ccccc3s2)c2ccc3cccnc3c2[O:10][H:20])nc1 10=20;20,21=21",
"C[NH:10]CC(=O)NCCc1c[nH]cn1.O=[N+]([O-])c1nc(-n2cnc(Br)n2)[n:21]([H:20])n1>>C[NH+:10](CC(=O)NCCc1c[nH]cn1)[H:20].O=[N+]([O-])c1nc(-n2cnc(Br)n2)[n-:21]n1 10=20;20,21=21",
"C[n+]1cc([S:21][H:20])cc2ccccc21.[S-]c1c2cncnc2nc[n:10]1>>C[n+]1cc([S-:21])cc2ccccc21.[S-]c1c2cncnc2nc[n+:10]1[H:20] 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].[NH3+]CCCC[NH2+]CCC[NH2:10]>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[NH3+]CCCC[NH2+]CCC[NH2+:10][H:20] 10=20;20,21=21",
"COP(=O)(NS(=O)(=O)c1ccccc1)[O-:10].Nc1nc2ccccc2[n+:21]([H:20])c1N>>COP(=O)(NS(=O)(=O)c1ccccc1)[O:10][H:20].Nc1nc2ccccc2[n:21]c1N 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].Cc1cc(C)c(C[NH2:10])cc1N>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.Cc1cc(C)c(C[NH2+:10][H:20])cc1N 10=20;20,21=21",
